US03974285
A solution of 2.00 g. (0.00545 mole) of 1-methyl-4-(1-methyl-1,4-dihydro-1,4-epoxy-9H-tribenzo[a,c,e]cyclohepten-9-ylidene)piperidine and 2.16 g. (0.0056 mole) of tetraphenylcyclopentadienone in 60 ml. of xylene (b.p. 139°-140°) is stirred and refluxed for 20 hours. After cooling, 30 ml. of 6N hydrochloric acid is added. The precipitate that forms is removed by filtration and the solid precipitate is washed with ether and benzene. The solid is collected and made basic with 40% sodium hydroxide solution. The mixture is extracted with ether, and the ether extract is washed with water and dried over magnesium sulfate. After filtration, the ether is removed to give a crystalline residue which is recrystallized from methanol to give 1-methyl-4-(1-methyl-8H-dibenzo[a,e]furo[3,4-c]cyclohepten-8-ylidene)piperidine, m.p. 80°-86°.

reactant | 1-methyl-4-(1-methyl-1,4-dihydro-1,4-epoxy-9H-tribenzo[a,c,e]cyclohepten-9-ylidene)piperidine | 0.00545 mole | CN1CCC(CC1)=C1C2=C(C3=C(C4=C1C=CC=C4)C4C=CC3(O4)C)C=CC=C2 | C26H25NO
reactant | tetraphenylcyclopentadienone | 0.0056 mole | C1(=CC=CC=C1)C1=C(C(=C(C1=O)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H20O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1-methyl-4-(1-methyl-8H-dibenzo[a,e]furo[3,4-c]cyclohepten-8-ylidene)piperidine | CN1CCC(CC1)=C1C2=C(C=3C(C4=C1C=CC=C4)=COC3C)C=CC=C2 | C24H23NO
